### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Projection): add lemmas for linear projections

### PR DESCRIPTION
**Pull request by themathqueen**
This pr adds some lemmas for linear projections.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Projection.lean [hunk 1]
```diff
@@ -386,10 +386,17 @@ theorem isProj_iff_isIdempotentElem (f : M →ₗ[S] M) :
 
 @[deprecated (since := "2025-01-12")] alias isProj_iff_idempotent := isProj_iff_isIdempotentElem
 
+theorem IsIdempotentElem.range_isProj {f : M →ₗ[S] M} (hf : IsIdempotentElem f) :
+    IsProj (range f) f :=
+  ⟨fun x => mem_range_self f x, fun x ⟨y, hy⟩ => by rw [← hy, ← Module.End.mul_apply, hf.eq]⟩
+
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Projection.lean]: You should put this before `isProj_iff_isIdempotentElem` and use it to golf that result.

Moreover, you should have another version of `isProj_iff_isIdempotentElem` which says `IsProj (range f) f ↔ IsIdempotentElem f`. Then your `IsProj.isIdempotentElem` lemma below can just become an `alias` of the new lemma.
```suggestion
theorem IsIdempotentElem.isProj_range {f : M →ₗ[S] M} (hf : IsIdempotentElem f) :
    IsProj (range f) f :=
  ⟨fun x => mem_range_self f x, fun x ⟨y, hy⟩ => by rw [← hy, ← Module.End.mul_apply, hf.eq]⟩
```

File: Mathlib/LinearAlgebra/Projection.lean [hunk 2]
```diff
@@ -423,8 +430,56 @@ theorem eq_conj_prod_map' {f : E →ₗ[R] E} (h : IsProj p f) :
...
+variable (S M) in
+protected theorem bot : IsProj (⊥ : Submodule S M) (0 : M →ₗ[S] M) :=
+  ⟨congrFun rfl, by simp only [mem_bot, zero_apply, forall_eq]⟩
+
+variable (S M) in
+protected theorem top : IsProj (⊤ : Submodule S M) (id (R := S)) :=
+  ⟨fun _ ↦ trivial, fun _ ↦ congrFun rfl⟩
+
+theorem subtype_comp_codRestrict {U : Submodule S M} {f : M →ₗ[S] M} (hf : IsProj U f) :
+    (Submodule.subtype U).comp hf.codRestrict = f := rfl
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Projection.lean]:
```suggestion
    U.subtype ∘ₗ hf.codRestrict = f := rfl
```

File: Mathlib/LinearAlgebra/Projection.lean [hunk 3]
```diff
@@ -423,8 +430,56 @@ theorem eq_conj_prod_map' {f : E →ₗ[R] E} (h : IsProj p f) :
...
+
+theorem submodule_eq_top_iff {f : M →ₗ[S] M} (hf : IsProj m f) :
+    m = (⊤ : Submodule S M) ↔ f = LinearMap.id := by
+  constructor <;> rintro rfl
+  · ext
+    simp only [id_coe, id_eq, hf.2 _ mem_top]
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Projection.lean]: I think it's clearer this way
```suggestion
    simp [hf.map_id]
```

File: Mathlib/LinearAlgebra/Projection.lean [hunk 4]
```diff
@@ -386,10 +386,17 @@ theorem isProj_iff_isIdempotentElem (f : M →ₗ[S] M) :
...
 
+theorem IsIdempotentElem.range_isProj {f : M →ₗ[S] M} (hf : IsIdempotentElem f) :
+    IsProj (range f) f :=
+  ⟨fun x => mem_range_self f x, fun x ⟨y, hy⟩ => by rw [← hy, ← Module.End.mul_apply, hf.eq]⟩
+
 namespace IsProj
 
 variable {p m}
 
+theorem isIdempotentElem {f : M →ₗ[S] M} (h : IsProj m f) : IsIdempotentElem f :=
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Projection.lean:394]: I think the canonical result you should have here is:
```lean
theorem mem_iff_map_id {f : M →ₗ[S] M} (hf : IsProj m f) {x : M} :
    x ∈ m ↔ f x = x :=
  ⟨hf.map_id x, fun h ↦ h ▸ hf.map_mem x⟩
```

File: Mathlib/LinearAlgebra/Projection.lean [hunk 5]
```diff
@@ -423,8 +430,56 @@ theorem eq_conj_prod_map' {f : E →ₗ[R] E} (h : IsProj p f) :
   · simp only [coe_prodEquivOfIsCompl, comp_apply, coe_inr, coprod_apply, map_zero,
       coe_subtype, zero_add, map_coe_ker, prodMap_apply, zero_apply, add_zero]
 
+protected theorem range {f : M →ₗ[S] M} (h : IsProj m f) : range f = m := by
+  ext x
+  exact ⟨fun ⟨y, hy⟩ => hy ▸ h.map_mem y, fun hx => ⟨x, h.map_id x hx⟩⟩
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Projection.lean]:
```suggestion
theorem submodule_unique {f : M →ₗ[S] M} {m₁ m₂ : Submodule S M}
    (hf₁ : IsProj m₁ f) (hf₂ : IsProj m₂ f) : m₁ = m₂ := by
  ext; simp [hf₁.mem_iff_map_id, hf₂.mem_iff_map_id]

open LinearMap in
protected theorem range {f : M →ₗ[S] M} (h : IsProj m f) : range f = m :=
  h.isIdempotentElem.range_isProj.submodule_unique h
```

File: Mathlib/LinearAlgebra/Projection.lean [hunk 6]
```diff
@@ -423,8 +430,56 @@ theorem eq_conj_prod_map' {f : E →ₗ[R] E} (h : IsProj p f) :
...
+    (Submodule.subtype U).comp hf.codRestrict = f := rfl
+
+theorem submodule_eq_top_iff {f : M →ₗ[S] M} (hf : IsProj m f) :
+    m = (⊤ : Submodule S M) ↔ f = LinearMap.id := by
+  constructor <;> rintro rfl
+  · ext
+    simp only [id_coe, id_eq, hf.2 _ mem_top]
+  · rw [← hf.range, range_id]
+
 end IsProj
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Projection.lean]: You can also have a `⊥` version:
```lean
theorem submodule_eq_bot_iff {f : M →ₗ[S] M} (hf : IsProj m f) :
    m = (⊥ : Submodule S M) ↔ f = 0 := by
  constructor <;> rintro rfl
  · ext
    simpa using hf.map_mem _
  · rw [← hf.range, range_zero]
```

File: Mathlib/LinearAlgebra/Projection.lean [hunk 7]
```diff
@@ -423,8 +430,56 @@ theorem eq_conj_prod_map' {f : E →ₗ[R] E} (h : IsProj p f) :
...
+
+/-- Idempotent operators are equal when their range and kernels are. -/
+lemma IsIdempotentElem.ext {p q : E →ₗ[R] E} (hp : IsIdempotentElem p) (hq : IsIdempotentElem q)
+    (hr : range p = range q) (hk : ker p = ker q) : p = q := by
+  ext x
+  obtain ⟨v, w, rfl, _⟩ := Submodule.existsUnique_add_of_isCompl (range_isProj hp).isCompl.symm x
+  have hv' : (v : E) ∈ ker q := hk ▸ SetLike.coe_mem v
+  have hw' : (w : E) ∈ range q := hr ▸ SetLike.coe_mem w
+  simp_rw [map_add, mem_ker.mp (SetLike.coe_mem v), (mem_range_iff hp).mp (SetLike.coe_mem w),
+    mem_ker.mp hv', zero_add, (mem_range_iff hq).mp hw']
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Projection.lean]: you can save a small amount of work by destructing `v` and `w` from their subtypes.
```suggestion
  obtain ⟨⟨v, hv⟩, ⟨w, hw⟩, rfl, _⟩ :=
    (ker p).existsUnique_add_of_isCompl (range_isProj hp).isCompl.symm x
  simp [mem_ker.mp, hv, (hk ▸ hv), hp.mem_range_iff.mp, hw, hq.mem_range_iff.mp, (hr ▸ hw)]
```

**Review by j-loreaux — COMMENTED** [review]
These are nice improvements, thanks!

**Comment by j-loreaux** [comment]
Please don't forget to remove the `awaiting-author` tag when you're ready for review again.

File: Mathlib/LinearAlgebra/Projection.lean (hunk 1 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Projection.lean]: How will `IsProj.isIdempotentElem` become an alias? One is saying that `IsProj m f` is idempotent, and the other that `IsProj (range f) f` is.
Oh, do you mean `IsIdempotentElem.isProj_range`?

File: Mathlib/LinearAlgebra/Projection.lean [hunk 8]
```diff
@@ -423,8 +430,66 @@ theorem eq_conj_prod_map' {f : E →ₗ[R] E} (h : IsProj p f) :
...
+  · rw [← hf.range, range_zero]
+
 end IsProj
 
+/-- Given an idempotent linear operator `p`, we have
+`x ∈ range p` if and only if `p(x) = x` for all `x`. -/
+theorem IsIdempotentElem.mem_range_iff {p : M →ₗ[S] M} (hp : IsIdempotentElem p) {x : M} :
+    x ∈ range p ↔ p x = x := by
+  refine ⟨fun ⟨y, hy⟩ => ?_, fun h => ⟨x, h⟩⟩
+  rw [← hy, ← Module.End.mul_apply, hp.eq]
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Projection.lean]:
```suggestion
    x ∈ range p ↔ p x = x :=
  hp.isProj_range.mem_iff_map_id
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.
